US04948809
4-Azidobenzenesulphonic acid-[4-(2-hydroxyethyl)-phenethylamide]
To an ice cold solution of 5.5 g. (33 mmole) 4-(2-hydroxyethyl)-phenethylamine, 100 ml. methylene chloride and 3.4 g. (33 mmole) triethylamine is slowly added dropwise a solution of 7.2 g. (33 mmole) 4-azidobenzenesulphonyl chloride in 50 ml. methylene chloride. Subsequently, the reaction is allowed to continue for 1 hour with ice cooling. The reaction mixture is now shaken out twice with dilute sulphuric acid, then twice with water, dried with anhydrous sodium sulphate and finally evaporated. The residue is recrystallised twice from toluene to give 7.8 g. (64% of theory) of desired product; m.p. 90°-92° C. (recrystallised from toluene).

reactant | 4-(2-hydroxyethyl)-phenethylamine | 33 mmole | OCCC1=CC=C(CCN)C=C1 | C10H15NO
reactant | triethylamine | 33 mmole | C(C)N(CC)CC | C6H15N
reactant | 4-azidobenzenesulphonyl chloride | 33 mmole | N(=[N+]=[N-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClN3O2S
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Azidobenzenesulphonic acid-[4-(2-hydroxyethyl)-phenethylamide] | OCCC1=CC=C(CCNS(=O)(=O)C2=CC=C(C=C2)N=[N+]=[N-])C=C1 | C16H18N4O3S
